US05112947
(2) Z-Asn-Ala-Pro-Arg(NO2)-OBzl
The desired compound was prepared from 2.9 g of Boc-Ala-Pro-Arg(NO2)-OBzl, 15 ml of 4N HCl-AcOEt, 1.4 g of Z-Asn-OH, 1.0 g of HOBt and 1.1 g of DCC in the same manner as in Example 7-(3).

reactant | Boc-Ala-Pro-Arg(NO2)-OBzl | 2.9 g | N([C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H39N7O8
reactant | HCl AcOEt | 4N, 15 ml | Cl.CCOC(=O)C
reactant | Z-Asn-OH | 1.4 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H14N2O5
reactant | HOBt | 1.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Asn-Ala-Pro-Arg(NO2)-OBzl | N([C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1 | C33H43N9O10
